2177-05-30 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Decreased Fi02
   -Continued Vanc/Zosyn, added clinda to continue HEENT anaerobic
   coverage.
   -Sent Cx from right ear.
   -Sutures from ET tube removed
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2177-5-30**] 01:31 AM
   Piperacillin - [**2177-5-30**] 01:31 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-5-30**] 01:31 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-30**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 76 (72 - 79) bpm
   BP: 126/66(80) {101/43(56) - 145/73(82)} mmHg
   RR: 16 (0 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    208 mL
                                                                    897 mL
   PO:
             TF:
   IVF:
                                                                    208 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    480 mL
   Urine:
                                                                    195 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,212 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.37/46/72/20/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 144
   Physical Examination
   GENERAL - Obese, intubated, sedated, but arousable
   HEENT - Right ear erythema and induration with crusting of previously
   serous fluid.  right facial erythema and inducation.  Right
   sub-mandibular induration.  Patient grimaces to pressure on right side.
   NECK - Thick neck, Trach attemp scar. Induration or right neck.
   LUNGS - CTA bilat, no r/rh/wh,
   HEART - RRR, no MRG, nl S1-S2
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES - + Edema, LE. + scrotal edema.
   NEURO - Sedated indubated. Moving all four extremities. pupils reactive
   to light
   Labs / Radiology
   199 K/uL
   10.6 g/dL
   169 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   47 mg/dL
   111 mEq/L
   139 mEq/L
   29.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2177-5-29**]  08:32 PM
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
   WBC
   20.9
   Hct
   29.6
   Plt
   218
   Cr
   1.2
   TCO2
   29
   28
   Glucose
   169
   Other labs: PT / PTT / INR:12.6/25.3/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL, LDH:323 IU/L,
   Ca++:6.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   73 year old male with obesity, DM, COPD who developed respiratory
   distress and right sided cellulitis/soft tissue infection transfered to
   [**Hospital1 **] for failure to extubate and possible trach placement by thoracics.
   #. Cellulitis/soft tissue infection:  Patient has been on seven days of
   broad spectrum antibiotics.  Per ENT notes his infection was
   improving.  Although S. areus and Group A strep grew from culture data,
   OSH ID team felt that it was likely a polymicrobial infection that
   required broad spectrum antibiotics.  From an ENT stand point they had
   wanted to extubate him and were considering changing him to oral
   antibiotics.
   -ENT consult for as predominantly upper airway issue: ABX choice and
   duration.
   -Continue Zosyn and Clindamycin, consider changing Vanc to Unasyn.
   Discuss with ENT if need both zosyn and clinda.
   -Obtain Cx data here if possible (not ideal as has been on days of
   antibiotics). Sputum, blood and any fluid from ear canal
   -Pain control with IV pain medication and sedation for now.
   -t/c repeat imaging (first load OSH into our sytstem)
   .
   #. Extubation: Overnight, he maintained his saturation.  He received
   extra sedation by nursing staff for being in pain, aside from sedation
   he should tolerate pressure support well. Patient has had difficuilty
   extubating initially secondary to sedation then later due to lack of a
   cuff leak.  He may not have a cuff leak given his body habitus.
   Underlying lung disease should play little in extubation as this seems
   to be a primarily upper airway problem.  [**Name (NI) **] may require a trach given
   his upper airway swelling.
   -Daily SBT and RSBI
   -Pressure support as tolerated
   -Check trach leak
 in this patient would not extubate without a trach
   leak.
   -Will wean down on FiO2 tonight.
   -Thoracics consult if unable to extubate for trach placement.
   .
   #. Diabetes: Holding oral hypoglycemics.  Covering with insulin sliding
   scale.
   .
   #. Hypertension: Blood pressures not elevated.  Holding
   anti-hypertensives.  Will restart when needed.
   .
   #. CRI: Baseline cr: aprox 1.3-1.5. Currently 1.2.  Acute renal failure
   from OSH resolved.  Will continue hydration.  Continue to hold ACEi.
   .
   #. COPD: Patient not on medicaiton at home for COPD.  Unclear [**Name2 (NI) 6224**].
   Patient with smoking history, unclear how long, quit a few years ago.
   No record of being home on O2.
   .
   #. Decubitus Ulcer: Present on admission.  Will discuss with nursing
   what stage it is at and consult wound care if appropriate.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: Hep SC, Pneumoboots
   Stress ulcer: PPI
   VAP:  Vap Bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Pending extubation or trach placement.

2177-05-30 09:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-5-29**] 08:17 PM
 PICC LINE - START [**2177-5-29**] 08:22 PM
   Patient maintained on ventilatory support overnight with minimal change
   in settings.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2177-5-30**] 01:31 AM
   Piperacillin - [**2177-5-30**] 01:31 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-5-30**] 01:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, 100.6
   Cardiovascular: No(t) Tachycardia
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2177-5-30**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 76 (72 - 79) bpm
   BP: 151/59(80) {101/43(56) - 151/73(82)} mmHg
   RR: 16 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.9 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                    208 mL
                                                                  1,102 mL
   PO:
             TF:
   IVF:
                                                                    208 mL
                                                                  1,102 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    665 mL
   Urine:
                                                                    195 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,212 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.37/46/72/24/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Overweight / Obese
   Neck
he does have persistent erythema and tenderness with exam
   difficult with patient grimace.
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, Sacral
   decubitus
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   199 K/uL
   164 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.3 mEq/L
   50 mg/dL
   112 mEq/L
   145 mEq/L
   29.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2177-5-29**]  08:32 PM
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
   WBC
   20.9
   17.2
   Hct
   29.6
   29.1
   Plt
   218
   199
   Cr
   1.2
   1.5
   TCO2
   29
   28
   Glucose
   169
   164
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR--ETT reported in place, bilateral ll field hazy
   opacities--fluid, habitus or collapse.
   Assessment and Plan
   73 yo male with a history of DM, Obesity and admitted to [**Hospital **] Hosp
   with respiratory distress following infectious prodrome--seen with ear
   pain, neck pain and throat pain.  In the ED there he had significant
   edema, erythema in neck and started on CTX/Unasyn and Steroids.  He was
   trialed on NIPPV with pharyngitis and no evidence of abscess seen.  He
   then had intubation required with severe resp acidosis on [**5-23**] and
   unable to place tracheostomy and patient intubated in OR with ETT
   sutured to lip.  CT scan--retro-pharyngeal edema/fluid and hematoma and
   gas overlying area of attempted trach intervention.  Follow up imaging
   showed some decrease in edema but patient with no cuff leak heard and
   patient to [**Hospital1 5**] for further care.
   1)Respiratory Failure-This was in large part upper airway issue but
   also compounded by significant restrictive ventilatory defect.  In this
   setting patient with minimal cuff leak leaving significant concern for
   possible issue post extubation.  He also has reported difficult anatomy
   for emergent trach placement which makes consideration of strategies
   for extubation important.  In regards to pulmonary process
there is
   minimal evidence of significant pulmonary parenchymal insult although
   imaging is limited.
   -Will move to PSV today
   -ETT secured in place
   -Would favor thoracics evaluation for trach placement to allow safe
   ventilatory support weaning and discontinuation if ENT unable to place
   trach which was the case at the OSH.
   2)Pharyngitis-Likely plymicrobial, has continued fever, elevation in
   WBC count and bandemia.  We have significant deep tissue infection in
   neck and will continue with broad spectrum coverage for what may well
   have been peri-odonatal infection.
   -Vanco/Zosyn/Clinda
   -ENT consult to aid in evaluation and treatment of infection--
   3)Acute Renal Failure-
   -continue to maintain adequate volume support, likely pre-renal state.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   ICU Care
   Nutrition: TF
s to start
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes

2177-05-31 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: transferred from OSH for consideration of tracheostomy
   placement
   24 Hour Events:
   -MR head/neck- diffuse oropharyngeal mucosal enhancement and
   subcutanous edema, consistent with cellulitis with a 1.6 X 1.0 cm right
   mylohyoid muscle collection and other smaller microabscesses.
   Incidental note of partially imaged right pleural effusion.
   -micro data- no growth to date
   -ID c/s- cont vanco/Zosyn for broad spectrum coverage
   -ENT c/s- waiting for imaging studies
   -Thoracics called- to see patient in morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-5-30**] 01:31 AM
   Piperacillin - [**2177-5-30**] 01:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-5-31**] 03:48 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-5-30**] 09:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-31**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.5
   HR: 79 (76 - 98) bpm
   BP: 130/51(70) {122/48(66) - 167/67(84)} mmHg
   RR: 16 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.9 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  1,917 mL
                                                                    606 mL
   PO:
             TF:
                                                                    103 mL
                                                                    326 mL
   IVF:
                                                                  1,724 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    900 mL
   Urine:
                                                                  1,845 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     72 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 120
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 96%
   ABG: ///25/
   Ve: 9.9 L/min
   Physical Examination
   GENERAL - Obese, intubated, sedated, but arousable
   HEENT - Right ear erythema and induration with crusting of previously
   serous fluid.  Right facial erythema and induration.  Right
   sub-mandibular induration.  Patient grimaces to pressure on right side.
   NECK - Thick neck, Trach attemp scar. Induration or right neck.
   LUNGS - CTA bilaterally in anterior fields
   HEART - RRR, no MRG, nl S1-S2
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES - + Edema, LE. + scrotal edema.
   NEURO
 Sedated and intubated.
   Labs / Radiology
   173 K/uL
   9.1 g/dL
   224 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.4 mEq/L
   41 mg/dL
   114 mEq/L
   146 mEq/L
   28.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2177-5-29**]  08:32 PM
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
                             [**2177-5-31**]  05:43 AM
   WBC
   20.9
   17.2
   13.1
   Hct
   29.6
   29.1
   28.2
   Plt
   [**Telephone/Fax (3) 6244**]
   Cr
   1.2
   1.5
   1.5
   TCO2
   29
   28
   Glucose
   169
   164
   224
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   73 year old man with obesity, DM, COPD who developed respiratory
   distress and right sided cellulitis/soft tissue infection transferred
   to [**Hospital1 **] for failure to extubate and possible trach placement by
   thoracics.
   # Cellulitis/soft tissue infection/low grade temperature:  Patient has
   been on seven days of broad spectrum antibiotics.  Per ENT notes his
   infection was improving.  Although S. areus and Group A strep grew from
   culture data, OSH ID team felt that it was likely a polymicrobial
   infection that required broad spectrum antibiotics.  From an ENT stand
   point they had wanted to extubate him and were considering changing him
   to oral antibiotics. ID and ENT services are now following here, and ID
   has recommended for continued broad spectrum coverage with Zosyn and
   vancomycin. MRI yesterday shows possible abscess in right myelohyoid
   muscle. This may need to be drained by ENT.
   -f/u ENT recs
   -any new culture data should be sent for fungal cultures in addition to
   bacterial
   -pain control with IV pain medication and sedation for now
   -already cultured this morning for low grade temperature to 100.7
   -f/u final MRI read
   # Extubation: Overnight, he maintained his saturation.  He received
   extra sedation by nursing staff for being in pain, aside from sedation
   he should tolerate pressure support well. Patient has had difficuilty
   extubating initially secondary to sedation then later due to lack of a
   cuff leak.  He may not have a cuff leak given his body habitus.
   Underlying lung disease should play little in extubation as this seems
   to be a primarily upper airway problem.  [**Name (NI) **] may require a trach given
   his upper airway swelling.
   -pressure support trial today
   -thoracics consult today; may need to go to OR for tracheostomy
   placement
   -repeat ABG
   -CXR
   # Diabetes: Holding oral hypoglycemics.  Covering with insulin sliding
   scale.
   # Hypertension: Blood pressures not elevated.  Holding
   anti-hypertensives.  Will restart when needed.
   #.CRI: Baseline cr: approx 1.3-1.5. Currently 1.2.  Acute renal failure
   from OSH resolved.  Will continue hydration.  Continue to hold ACEi.
   -check urine electrolytes
   # COPD: Patient not on medicaiton at home for COPD.  Unclear [**Name2 (NI) 6224**].
   Patient with smoking history, unclear how long, quit a few years ago.
   No record of being home on O2.
   # Decubitus Ulcer: Present on admission.  Will discuss with nursing
   what stage it is at and consult wound care if appropriate.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control: sliding scale insulin
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: Hep SC, Pneumoboots
   Stress ulcer: PPI
   VAP:  Vap Bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Pending extubation or trach placement.

2177-05-31 08:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx reviewed - 73 yo male with a history of DM, Obesity and admitted to
   [**Hospital **] Hosp with respiratory distress following infectious
   prodrome--seen with ear pain, neck pain and throat pain.  In the ED
   there he had significant edema, erythema in neck and started on
   CTX/Unasyn and Steroids.  He was trialed on NIPPV with pharyngitis and
   no evidence of abscess seen.  He then had intubation required with
   severe resp acidosis on [**5-23**] and unable to place tracheostomy and
   patient intubated in OR with ETT sutured to lip.  CT
   scan--retro-pharyngeal edema/fluid and hematoma and gas overlying area
   of attempted trach intervention.  Transferred to [**Hospital1 5**] for
   consideration of trach
   24 Hour Events:
 BLOOD CULTURED - At [**2177-5-31**] 06:41 AM
 URINE CULTURE - At [**2177-5-31**] 06:41 AM
   ENT consulted. MRI done (CT not done due to renal failure) - prelim
   diffuse o/p enhancement c/w cellulitis, right myohyoid collection,
   probable abscess.
   ID consulted - c/w Vanc/Zosyn for now
   Thoracics consult pending
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2177-5-30**] 01:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-5-31**] 03:48 AM
   Vancomycin - [**2177-5-31**] 07:22 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-5-31**] 07:22 AM
   Other medications:
   Changes to medical and family history:
   Diabetes
   Chronic Renal Insufficiency (baseline Cr of 1.5)
   HTN
   Obesity
   COPD
   PVD
   TIA
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-5-31**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 78 (78 - 98) bpm
   BP: 129/48(68) {122/48(66) - 167/67(84)} mmHg
   RR: 17 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.9 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  1,920 mL
                                                                    985 mL
   PO:
             TF:
                                                                    103 mL
                                                                    416 mL
   IVF:
                                                                  1,726 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    990 mL
   Urine:
                                                                  1,845 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 120
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: ///25/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, thick neck
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, right facial induration over cheek, grimaces with
   pressure, slightly warm to touch
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   173 K/uL
   224 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.4 mEq/L
   41 mg/dL
   114 mEq/L
   146 mEq/L
   28.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2177-5-29**]  08:32 PM
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
                             [**2177-5-31**]  05:43 AM
   WBC
   20.9
   17.2
   13.1
   Hct
   29.6
   29.1
   28.2
   Plt
   [**Telephone/Fax (3) 6244**]
   Cr
   1.2
   1.5
   1.5
   TCO2
   29
   28
   Glucose
   169
   164
   224
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   73 yo male with a history of DM, Obesity and admitted to [**Hospital **] Hosp
   with respiratory distress following infectious prodrome--seen with ear
   pain, neck pain and throat pain.  In the ED there he had significant
   edema, erythema in neck and started on CTX/Unasyn and Steroids.  He was
   trialed on NIPPV with pharyngitis and no evidence of abscess seen.  He
   then had intubation required with severe resp acidosis on [**5-23**] and
   unable to place tracheostomy and patient intubated in OR with ETT
   sutured to lip.  CT scan--retro-pharyngeal edema/fluid and hematoma and
   gas overlying area of attempted trach intervention.  Follow up imaging
   showed some decrease in edema but patient with no cuff leak heard and
   patient to [**Hospital1 5**] for further care.
   1) Acute respiratory Failure-This was in large part upper airway issue
   but also compounded by significant restrictive ventilatory defect.  In
   this setting patient with minimal cuff leak leaving significant concern
   for possible issue post extubation.  He also has reported difficult
   anatomy for emergent trach placement which makes consideration of
   strategies for extubation important.  In regards to pulmonary
   process
there is minimal evidence of significant pulmonary parenchymal
   insult although imaging is limited. Repeat CXR pending.
   -Will move to PSV today
   -ETT secured in place
   -Would favor thoracics evaluation for trach placement to allow safe
   ventilatory support weaning and discontinuation if ENT unable to place
   trach which was the case at the OSH.
   2)Myohoid collection, likely abscess - has continued fever, elevation
   in WBC count (improving) and bandemia.  We have significant deep tissue
   infection in neck and will continue with broad spectrum coverage for
   what may well have been peri-odonatal infection.
   -Vanco/Zosyn
   -ENT consult to aid in evaluation and treatment of infection--
   3)Acute Renal Failure-
   -continue to maintain adequate volume support, likely pre-renal state.
   - likely chronic kidney disease from DM
   4) Access/misc - right PICC, PPI, SCH
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2177-5-31**] 07:12 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2177-06-01 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Continued vanc/zosyn per ID recs with pt spiking low fevers to 100.9.
   BP rising in afternoon after receiving mouthcare; Versed increased and
   given tylenol for fever with improvement.
   More awake this AM, appears uncomfortable [**2-24**] intubation. Febrile again
   to 101.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2177-5-30**] 01:31 AM
   Vancomycin - [**2177-5-31**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-1**] 04:07 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-5-31**] 07:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-1**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38
C (100.4
   HR: 79 (78 - 99) bpm
   BP: 138/52(74) {129/48(68) - 187/83(115)} mmHg
   RR: 21 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.9 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  3,572 mL
                                                                    906 mL
   PO:
             TF:
                                                                  1,272 mL
                                                                    385 mL
   IVF:
                                                                  1,611 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    355 mL
   Urine:
                                                                  1,450 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,872 mL
                                                                    551 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 479 (400 - 479) mL
   PS : 12 cmH2O
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 81
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/42/81.[**Numeric Identifier **]/24/3
   Ve: 12.1 L/min
   PaO2 / FiO2: 164
   Physical Examination
   GENERAL - Obese, intubated, sedated, but arousable
   HEENT - Right ear erythema and induration with crusting of previously
   serous fluid.  Right facial erythema and induration.  Right
   sub-mandibular induration.  Patient grimaces to pressure on right side.
   NECK - Thick neck, Trach attemp scar. Induration or right neck.
   LUNGS - CTA bilaterally in anterior fields
   HEART - RRR, no MRG, nl S1-S2
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES - + Edema, LE. + scrotal edema.
   NEURO
 Sedated and intubated.
   Labs / Radiology
   173 K/uL
   9.1 g/dL
   219 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.7 mEq/L
   38 mg/dL
   114 mEq/L
   143 mEq/L
   28.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2177-5-29**]  08:32 PM
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
                             [**2177-5-31**]  05:43 AM
                             [**2177-5-31**]  01:07 PM
                             [**2177-5-31**]  06:30 PM
   WBC
   20.9
   17.2
   13.1
   Hct
   29.6
   29.1
   28.2
   Plt
   [**Telephone/Fax (3) 6244**]
   Cr
   1.2
   1.5
   1.5
   1.6
   TCO2
   29
   28
   29
   Glucose
   169
   164
   224
   219
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.2 mg/dL
   FeUrea 33.83. U/A - 134 RBC, 0 WBC/bact, 30 prot, neg eos, mod uric
   acid
   Assessment and Plan
   73 year old man with obesity, DM, COPD who developed respiratory
   distress and right sided cellulitis/soft tissue infection transferred
   to [**Hospital1 **] for failure to extubate and possible trach placement by
   thoracics.
   # Cellulitis/soft tissue infection/low grade temperature:  Patient has
   been on eight days of broad spectrum antibiotics.  Per ENT notes his
   infection was improving.  Although S. areus and Group A strep grew from
   culture data, OSH ID team felt that it was likely a polymicrobial
   infection that required broad spectrum antibiotics.  From an ENT stand
   point they had wanted to extubate him and were considering changing him
   to oral antibiotics. ID and ENT services are now following here, and ID
   has recommended for continued broad spectrum coverage with Zosyn and
   vancomycin. MRI yesterday shows possible abscess in right myelohyoid
   muscle. This may need to be drained by ENT.
   -f/u ENT recs
   -any new culture data should be sent for fungal cultures in addition to
   bacterial
   -pain control with IV pain medication and sedation for now
   -already cultured this morning for low grade temperature to 100.7
   -f/u final MRI read
   -check vanc
   # Extubation: Overnight, he maintained his saturation.  He received
   extra sedation by nursing staff for being in pain, aside from sedation
   he should tolerate pressure support well. Patient has had difficuilty
   extubating initially secondary to sedation then later due to lack of a
   cuff leak.  He may not have a cuff leak given his body habitus.
   Underlying lung disease should play little in extubation as this seems
   to be a primarily upper airway problem.  [**Name (NI) **] may require a trach given
   his upper airway swelling.
   -pressure support trial today
   -thoracics consult today; may need to go to OR for tracheostomy
   placement
   -repeat ABG
   -CXR
   # Diabetes: Elevated FSG likely in setting of infection and off home
   oral hypoglycemics
   -Added lantus and tightened regular insulin sliding scale
   -Monitor FSG and adjust coverage as needed
   # Hypertension: Blood pressures not elevated.  Holding
   anti-hypertensives.  Will restart when needed.
   #.CRI: Baseline cr: approx 1.3-1.5. Currently 1.2.  Acute renal failure
   from OSH resolved.  Will continue hydration.  Continue to hold ACEi.
   -check urine electrolytes
   # COPD: Patient not on medication at home for COPD.  Unclear [**Name2 (NI) 6224**].
   Patient with smoking history, unclear how long, quit a few years ago.
   No record of being home on O2.
   # Decubitus Ulcer: Present on admission.  Will discuss with nursing
   what stage it is at and consult wound care if appropriate.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control: Standing/sliding scale insulin
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: Hep SC, pneumoboots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending extubation or trach placement

2177-06-01 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2177-5-31**] 09:38 AM
   Spiked low grade fevers tx with tylenol. Also had some agitation,
   versed increased temporarily.
   Tm 101. rest of vitals below
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2177-5-30**] 01:31 AM
   Vancomycin - [**2177-5-31**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-1**] 04:07 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-6-1**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-1**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 77 (77 - 101) bpm
   BP: 123/44(63) {123/44(63) - 187/83(115)} mmHg
   RR: 21 (18 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.9 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  3,573 mL
                                                                  1,327 mL
   PO:
             TF:
                                                                  1,273 mL
                                                                    570 mL
   IVF:
                                                                  1,611 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    945 mL
   Urine:
                                                                  1,450 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,873 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 495 (450 - 495) mL
   PS : 12 cmH2O
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 81
   SpO2: 99%
   ABG: 7.44/42/81.[**Numeric Identifier **]/27/3
   Ve: 9.9 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, erythema right neck
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   191 K/uL
   201 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   36 mg/dL
   111 mEq/L
   146 mEq/L
   27.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2177-5-29**]  08:32 PM
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
                             [**2177-5-31**]  05:43 AM
                             [**2177-5-31**]  01:07 PM
                             [**2177-5-31**]  06:30 PM
                             [**2177-6-1**]  06:23 AM
   WBC
   20.9
   17.2
   13.1
   10.9
   Hct
   29.6
   29.1
   28.2
   27.2
   Plt
   [**Telephone/Fax (3) 6255**]91
   Cr
   1.2
   1.5
   1.5
   1.6
   1.6
   TCO2
   29
   28
   29
   Glucose
   169
   164
   224
   219
   201
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   73 yo male with a history of DM, Obesity and admitted to [**Hospital **] Hosp
   with respiratory distress following infectious prodrome--seen with ear
   pain, neck pain and throat pain.  In the ED there he had significant
   edema, erythema in neck and started on CTX/Unasyn and Steroids.  He was
   trialed on NIPPV with pharyngitis and no evidence of abscess seen.  He
   then had intubation required with severe resp acidosis on [**5-23**] and
   unable to place tracheostomy and patient intubated in OR with ETT
   sutured to lip.  CT scan--retro-pharyngeal edema/fluid and hematoma and
   gas overlying area of attempted trach intervention.  Follow up imaging
   showed some decrease in edema but patient with no cuff leak heard and
   patient to [**Hospital1 5**] for further care.
   1) Acute respiratory Failure-This was in large part upper airway issue
   but also compounded by significant restrictive ventilatory defect.
   Currently has cuff leak but I'm hesitant to extubate given ongoing
   fevers and difficult intubation. Will do SBT today and wean sedation
   for possible extubation with anesthesia present in AM.
   -Will c/w PSV today. If requires drainage procedure, may require trach
   2)Myohoid collection, possible abscess - has continued low grade fever,
   improved leukocytosis. Significant deep tissue infection in neck, will
   continue with broad spectrum coverage for what may well have been
   peri-odonatal infection.
   -Vanco/Zosyn, ENT involved
   3)Acute Renal Failure-
   -continue to maintain adequate volume support, likely pre-renal state.
   - likely chronic kidney disease from DM
   4) Access/misc - right PICC, PPI, SCH
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2177-6-1**] 06:51 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2177-06-02 10:43:00 Physician Attending Progress Note
Chief Complaint: resp failure, pharyngeal space infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.1
F - [**2177-6-1**] 11:00 AM
   History obtained from Medical records, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-6-1**] 08:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-2**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-6-1**] 03:09 PM
   Other medications:
   per ([**Month (only) **])
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-2**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.5
   HR: 95 (78 - 102) bpm
   BP: 144/59(80) {136/51(73) - 180/79(107)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.7 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  4,395 mL
                                                                    917 mL
   PO:
             TF:
                                                                  1,331 mL
   IVF:
                                                                  2,134 mL
                                                                    917 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    690 mL
   Urine:
                                                                  1,730 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,615 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (330 - 541) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.30/61/90.[**Numeric Identifier 299**]/28/1
   Ve: 8.7 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, r neck erythema/edema
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Obese
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   223 K/uL
   140 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   27 mg/dL
   108 mEq/L
   143 mEq/L
   28.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2177-5-29**]  08:32 PM
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
                             [**2177-5-31**]  05:43 AM
                             [**2177-5-31**]  01:07 PM
                             [**2177-5-31**]  06:30 PM
                             [**2177-6-1**]  06:23 AM
                             [**2177-6-1**]  04:03 PM
                             [**2177-6-2**]  04:25 AM
   WBC
   20.9
   17.2
   13.1
   10.9
   12.8
   Hct
   29.6
   29.1
   28.2
   27.2
   28.5
   Plt
   [**Telephone/Fax (3) 6255**]91
   223
   Cr
   1.2
   1.5
   1.5
   1.6
   1.6
   1.5
   TCO2
   29
   28
   29
   31
   Glucose
   169
   164
   224
   [**Telephone/Fax (3) 6265**]
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Imaging: et ok, r picc ok, ess unchanged, small rll consolidative
   process appears stable
   Microbiology: no new micro
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   73 yo male with a history of DM, obesity, OSA admitted to [**Hospital **]
   Hosp with respiratory distress following infectious prodrome--seen with
   ear pain, neck pain and throat pain.  In the ED there he had
   significant edema, erythema in neck and started on CTX/Unasyn and
   Steroids.  He was trialed on NIPPV with pharyngitis and no evidence of
   abscess seen.  He then had intubation required with severe resp
   acidosis on [**5-23**] and unable to place tracheostomy and patient intubated
   in OR with ETT sutured to lip.  CT scan--retro-pharyngeal edema/fluid
   and hematoma and gas overlying area of attempted trach intervention.
   Follow up imaging showed some decrease in edema but patient with no
   cuff leak heard and patient to [**Hospital1 5**] for further care.
        R pharygeal space infection, resp failure
   1) Acute respiratory Failure-This was in large part upper airway issue
   but also compounded by significant restrictive ventilatory defect.
   Currently has cuff leak but I'm hesitant to extubate given ongoing
   fevers and difficult intubation. Will do SBT today and wean sedation
   for possible extubation with anesthesia present in AM.
   Will c/w PSV today. Doing well with minimal vent support but sedation
   remains issue and has developed resp failure/worsening co2 retenion on
   spont bretahing trial.  Would be good candidate for extubation to PAP
   but given ear and phayrgneal infeviton mask ventialtion may be
   difficult--pt will liekly require trach.  Thoracics following.
   now concern for developing VAP--repeat cx's and consider briadening
   with double GNR coverage or sewitch to [**Last Name (un) **] if any sign of clincial
   decline.
   2)Phayrngeal space infection--continued low grade fever, improving
   leukocytosis.
   Continue broad spectrum coverage with Vanco/Zosyn, ENT involved
   3)Acute Renal Failure on CRI---imporved to baseline
   -continue to maintain adequate volume support, likely pre-renal state
   at intiial presentation.
   - likely chronic kidney disease from DM
   4) Access/misc - right PICC, PPI, SCH
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-06-03 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2177-6-3**] 01:00 AM
   -After discussion with ENT and [**Last Name (LF) 616**], [**First Name3 (LF) 124**] plan to hold off on MRI
   for 2 more days to see if fluid collection changes
   -ID would like CT chest at the time of MRI to evaluate extent of
   infection
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-6-2**] 08:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-3**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2177-6-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-6-2**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-3**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 88 (88 - 101) bpm
   BP: 125/56(72) {109/49(64) - 161/69(92)} mmHg
   RR: 0 (0 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.7 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  2,268 mL
                                                                    755 mL
   PO:
             TF:
                                                                    188 mL
                                                                    195 mL
   IVF:
                                                                  1,930 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    285 mL
   Urine:
                                                                  1,475 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    793 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Spontaneous): 400 (325 - 507) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   8.3 g/dL
   143 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   26 mg/dL
   107 mEq/L
   141 mEq/L
   26.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
                             [**2177-5-31**]  05:43 AM
                             [**2177-5-31**]  01:07 PM
                             [**2177-5-31**]  06:30 PM
                             [**2177-6-1**]  06:23 AM
                             [**2177-6-1**]  04:03 PM
                             [**2177-6-2**]  04:25 AM
                             [**2177-6-3**]  04:58 AM
   WBC
   17.2
   13.1
   10.9
   12.8
   12.5
   Hct
   29.1
   28.2
   27.2
   28.5
   26.9
   Plt
   199
   173
   191
   223
   258
   Cr
   1.5
   1.5
   1.6
   1.6
   1.5
   1.6
   TCO2
   29
   28
   29
   31
   Glucose
   164
   224
   219
   [**Telephone/Fax (3) 6298**]
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Vanco: 17.3
   Imaging: CXR [**6-2**] unchanged but for penetration, overlying radioopaque
   object in the field.
   Microbiology: BCx [**5-31**], [**6-2**] Pending
   Sputum GRAM STAIN (Final [**2177-6-2**]):
   NO MICROORGANISMS SEEN.
   Assessment and Plan
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2177-6-2**] 04:30 PM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2177-06-03 12:09:00 Physician Attending Progress Note
Chief Complaint: pharyngeal space infection/resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo obese M with DM, OSA, with resp failure and right sided
   cellulitis/ pharyngeal space soft tissue infection transferred to [**Hospital1 **]
   for failure to extubate and possible trach placement by thoracics.  Now
   with ongoing fevers, increased b/b infiltrates concerning for VAP.
   24 Hour Events:
 FEVER - 101.1
F - [**2177-6-3**] 01:00 AM
   Remains febrile
                                                        History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-6-2**] 08:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-3**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-6-3**] 08:26 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-3**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.3
   HR: 92 (88 - 105) bpm
   BP: 148/57(79) {109/49(64) - 168/65(86)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106.7 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  2,268 mL
                                                                    911 mL
   PO:
             TF:
                                                                    188 mL
                                                                    221 mL
   IVF:
                                                                  1,930 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    575 mL
   Urine:
                                                                  1,475 mL
                                                                    455 mL
   NG:
   120 mL
   Stool:
   Drains:
   Balance:
                                                                    793 mL
                                                                    336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 323 (323 - 428) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///29/
   Ve: 9.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   258 K/uL
   143 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   26 mg/dL
   107 mEq/L
   141 mEq/L
   26.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2177-5-29**]  09:37 PM
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
                             [**2177-5-31**]  05:43 AM
                             [**2177-5-31**]  01:07 PM
                             [**2177-5-31**]  06:30 PM
                             [**2177-6-1**]  06:23 AM
                             [**2177-6-1**]  04:03 PM
                             [**2177-6-2**]  04:25 AM
                             [**2177-6-3**]  04:58 AM
   WBC
   17.2
   13.1
   10.9
   12.8
   12.5
   Hct
   29.1
   28.2
   27.2
   28.5
   26.9
   Plt
   199
   173
   191
   223
   258
   Cr
   1.5
   1.5
   1.6
   1.6
   1.5
   1.6
   TCO2
   29
   28
   29
   31
   Glucose
   164
   224
   219
   [**Telephone/Fax (3) 6298**]
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: vanco 17
   Imaging: cxr--full hilar vessels, b/b infiltrates
   Microbiology: bl pending
   sputum [**6-1**] neg
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   73 yo obese M with DM, OSA, with resp failure and right sided
   cellulitis/ pharyngeal space soft tissue infection transferred to [**Hospital1 **]
   for failure to extubate and possible trach placement by thoracics.
   Febrile, Now with increasing b/b infiltrates/secretions concerning for
   VAP.
   Primary issues remain:
   # Acute respiratory Failure
   Initially upper airway issue (stridor) but also compounded by
   significant restrictive ventilatory defect and obesity.
   With increasing secretions and b/b infiltrates concern for VAP.
   Now also likely mucus plugging effecting PS tolerance.
   Full vessels/vol also contributing
   --Bronch today for plugging and send cx's
   --Retattempt PSV post-bronch
   --Feel pt will require trach to safey extubate--thoracics is following,
   will obtain imaging of trachea/chest to better define for surgery, will
   need some diuresis prior to removal of pp
   # Fevers
   # Phayrngeal space infection--continued fevers but with improving
   leukocytosis and wound site on inspection
   #now probable VAP, picc additional potential source
   --Continue broad spectrum coverage with Vanco/Zosyn
   --plan to reimage with MRI in [**1-24**] days
   --recx
   --change line site,
   --would broaden antibx with double GNR coverage or switch to [**Last Name (un) **] in
   setting of any clincial decline. or in setting of clinical decline
   # ARF on CRI
   --Cr improved to baseline
   -continue to maintain adequate volume support, likely pre-renal state
   at initial presentation.
   -likely component of chronic kidney disease from DM
   Remainder as per housestaff PN
   ICU Care
   Nutrition:
   Glycemic Control:  ssi
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : icu, critically ill
   Total time spent: 45

2177-06-04 12:08:00 Physician Attending Progress Note
Chief Complaint: resp failure/pharyngeal space inf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2177-6-3**] 04:00 PM
   bronched yesterday-->significant compression/narrowing of distal
   trachea beyond et tube
   ct neck and chest reviewed
                                                     History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-3**] 08:10 PM
   Vancomycin - [**2177-6-4**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2177-6-3**] 04:15 PM
   Fentanyl - [**2177-6-3**] 04:15 PM
   Heparin Sodium (Prophylaxis) - [**2177-6-4**] 08:00 AM
   Other medications:
   Reviewed --per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-4**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 76 (67 - 84) bpm
   BP: 145/54(75) {110/42(58) - 162/68(93)} mmHg
   RR: 16 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.7 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  2,453 mL
                                                                  1,878 mL
   PO:
             TF:
                                                                    484 mL
                                                                    530 mL
   IVF:
                                                                  1,309 mL
                                                                  1,018 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    410 mL
   Urine:
                                                                    810 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,643 mL
                                                                  1,468 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 9.8 L/min
   Physical Examination
   Obese M intubated and sedated, depend edema
   Obese neck--without erythema/ remains indurated/hard on R
   Coarse BS decreased at bases
   Rr
   + BS soft abd
   Distal pulses diminished
   Skin:  warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   252 K/uL
   120 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   32 mg/dL
   108 mEq/L
   140 mEq/L
   23.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2177-5-30**]  12:51 AM
                             [**2177-5-30**]  05:47 AM
                             [**2177-5-31**]  05:43 AM
                             [**2177-5-31**]  01:07 PM
                             [**2177-5-31**]  06:30 PM
                             [**2177-6-1**]  06:23 AM
                             [**2177-6-1**]  04:03 PM
                             [**2177-6-2**]  04:25 AM
                             [**2177-6-3**]  04:58 AM
                             [**2177-6-4**]  03:37 AM
   WBC
   17.2
   13.1
   10.9
   12.8
   12.5
   9.5
   Hct
   29.1
   28.2
   27.2
   28.5
   26.9
   23.3
   Plt
   199
   173
   191
   223
   258
   252
   Cr
   1.5
   1.5
   1.6
   1.6
   1.5
   1.6
   2.0
   TCO2
   28
   29
   31
   Glucose
   164
   224
   219
   [**Telephone/Fax (3) 6298**]
   120
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:26/21, Alk Phos / T
   Bili:35/0.4, Differential-Neuts:73.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:5.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:323 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Imaging: ct --b/b consolidation/atelectasis with small effusions,
   narrowing of trachea
   cxr--w/o sig change, full hilar vessels, b/b infiltrates with blunting
   of cpa, r cut off, et low, picc in place
   Microbiology: bronch cx-pending
   bl pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   73 yo obese M with DM, OSA, with resp failure and right sided
   cellulitis/ pharyngeal space soft tissue infection transferred to [**Hospital1 **]
   for failure to extubate and possible trach placement by thoracics.
   Course c/b continued low grade temps and imaging and secretions
   concerning for VAP.
   Primary issues remain:
   # Acute respiratory Failure
        Initially upper airway issue (stridor),compounded by significant
   restrictive ventilatory defect and obesity and now complicated further
   by VAP.  Not currently at point where he is ready to consider
   extubation as he has not tolerated PS weans and now intubated for 1.5
   wks.  We have discussed in detail with both ent and thoracics
   consideration of  trach placement to more safely wean and ultimately
   extubate this pt.   Their input is appreciated.
        On bronch there was sig tracheal narrowing which Is likely
   contributing to poor tolerance of PS in addition to obesity and VAP.
   Suspect the tracheal appearance is related to airway edema from et
   trauma or his neck/pharyngeal space infection. His chest/tracheal/upper
   airway anatomy would require mediastinal trach with resection of
   superior sternal plate which is an aggressive and possibly permanent
   procedure making pursuit of trach placement at this time in course far
   less appealing for this pt.   We will continue to support on vent and
   continue to reassess for extubation trial as neck infection improves
   and VAP resolves. Any future extubation attempt  would be approached
   conservatively
likely  over scope to protect airway given above
   findings.
   # Low grade fevers
        # Phayrngeal space infection
        #VAP
   No obvious new infectious source.  Improving leukocytosis and wound
   site on inspection.
   --Continue broad spectrum coverage with Vanco/Zosyn
   --clarify with ent need for reimaging of neck with mri
limited neck CT
   did not show any increasing fluid collection for drainage
   --old picc will be d/c
d following ir placement of new picc today
   --plan to broaden antibx with double GNR coverage or switch to [**Last Name (un) **] in
   setting of any clinical decline
   # ARF on CRI
   Cr increased overnight
may be intravascularly dry in pt with component
   of chronic kidney disease from DM.
   --Check urine eos and lytes.
   --continue to maintain adequate volume support
   Remainder as per housestaff PN
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2177-6-4**] 10:47 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-5-29**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2177-06-07 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RISB 61 this AM, doing well on SBT
   -IV lasix yesterday with 2L net negative
   - Plan to extubate in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-6-6**] 07:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-7**] 03:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2177-6-6**] 11:08 AM
   Heparin Sodium (Prophylaxis) - [**2177-6-6**] 07:30 PM
   Midazolam (Versed) - [**2177-6-7**] 12:30 AM
   Fentanyl - [**2177-6-7**] 12:30 AM
   Hydralazine - [**2177-6-7**] 06:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-7**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 85 (84 - 100) bpm
   BP: 149/60(82) {138/50(69) - 180/86(93)} mmHg
   RR: 21 (16 - 28) insp/[**Year (4 digits) **]
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.7 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  1,266 mL
                                                                    139 mL
   PO:
             TF:
                                                                     43 mL
   IVF:
                                                                    941 mL
                                                                    139 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                  3,288 mL
                                                                    415 mL
   Urine:
                                                                  2,838 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,022 mL
                                                                   -276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (380 - 568) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   SpO2: 94%
   ABG: 7.42/52/89.[**Numeric Identifier 299**]/30/7
   Ve: 11.4 L/[**Numeric Identifier **]
   PaO2 / FiO2: 178
   Physical Examination
   GENERAL - Obese, intubated, sedated but arousable to voice
   HEENT - Right ear erythema and induration with crusting, somewhat
   improved over the past few days.  Right facial erythema and
   induration.  Right sub-mandibular induration.  All decreased slightly
   over the past few days.
   NECK - Thick neck, Trach attemp scar. Induration on right neck
   improving
   LUNGS
 bilateral expiratory rhonchi
   HEART - RRR, no MRG, nl S1-S2
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES
 increased lower extremity edema
   NEURO
 Sedated and intubated
   Labs / Radiology
   263 K/uL
   9.1 g/dL
   92 mg/dL
   1.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   26 mg/dL
   106 mEq/L
   145 mEq/L
   27.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2177-6-2**]  04:25 AM
                             [**2177-6-3**]  04:58 AM
                             [**2177-6-4**]  03:37 AM
                             [**2177-6-4**]  04:31 PM
                             [**2177-6-4**]  07:28 PM
                             [**2177-6-5**]  06:02 AM
                             [**2177-6-6**]  06:04 AM
                             [**2177-6-6**]  05:50 PM
                             [**2177-6-6**]  10:04 PM
                             [**2177-6-7**]  04:23 AM
   WBC
   12.8
   12.5
   9.5
   10.4
   9.3
   8.0
   8.3
   Hct
   28.5
   26.9
   23.3
   27.0
   25.0
   23.3
   26.6
   27.5
   Plt
   223
   258
   252
   [**Telephone/Fax (3) 6437**]
   263
   Cr
   1.5
   1.6
   2.0
   1.9
   1.9
   1.9
   1.8
   TCO2
   32
   35
   Glucose
   140
   143
   120
   144
   70
   100
   92
   Other labs: PT / PTT / INR:14.2/28.1/1.2, ALT / AST:24/18, Alk Phos / T
   Bili:38/0.8, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:7.0 %,
   Mono:5.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:218 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR pending
   Assessment and Plan
   73 year old man with obesity, DM, COPD who developed respiratory
   distress and right sided cellulitis/soft tissue infection transferred
   to [**Hospital1 **] for failure to extubate. He has been found to have saber sheath
   trachea.
   # Upper airway obstruction/Respiratory Failure:  R neck cellulitis
   improving. Patient diuresing well. RISB this AM 61, has done well on
   SBT.  Mental status good, secretions miminal.
   - Extubate (make anesthesia aware given patient
s difficult anatomy.
   - Lasix  20IV x1 with goal 1.5L net negative today
   -After extubation will try to keep patient sitting up with his legs
   down to minimize amount of pressure on lungs from large abdomen.
   # Cellulitis/soft tissue infection:  Patient afebrile,  WBC trending
   down.
   - Continue Vanc/Zosyn
   # DM:  continue Lantus, HISS
   #.CRI: Creatinine trending down to 1.8, patient with good urine
   output.
   - Diurese as above
   - continue to monitor
   - renally dose meds including vancomycin
   # Hypertension: Markedly hypertensive overnight.  Started hydralazine
   standing.
   - Increase Amlodipine to 10mg PO daily
   - Continue hydralizine for now and if patient extubated will start new
   [**Doctor Last Name **].
   # Decubitus Ulcer: Present on admission, stable per nursing with no
   need for wound consult at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-6-4**] 03:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending Extubation
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 6453**] is more awake on current level of sedation and has a string
   grip and gag reflex. His sats are 92% on cuurent FiO2 of 40%. He is
   still on fentanyl ( 100) and versed ( 1). He has decreased BS at left
   base but minimal wheezing. he does manifest
   minimal edema.
   Exam notable for Tm 99.5  BP 170/77 HR of 84 RR of 16 with sats of
   92% on 50% /5 PEEP . Labs notable for WBC 8.3 K, HCT of 27.5 , K+ 4.0 ,
   Cr 1.8, lactate of 1.2. CXR with atelectasis left base, effusions Rt>
   left.
   Agree with plan to decrease sedation and attempt extubation (anasthesia
   on standby) today with BiPAP on hold for hypoventilation. He will need
   help with secretion clearance and wheezing post extubation. gentle
   diuresis may help if he doesn't auto-diurese.
   We will continue antibiotics for now for at least 14 day course.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2177-6-7**] 03:14 PM ------

2177-06-09 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 1u prbc's, got Lasix (20mg); neg 640cc
   - Blood pressure meds: labetalol increased to 40mg Q6H
   - Added fentanyl patch for ?pain component
   - Speech and swallow eval tomorrow, doppler right arm tomorrow
   - guaiac negative
   - hct bumped appropriately
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-6-8**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-9**] 04:40 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2177-6-8**] 11:45 AM
   Furosemide (Lasix) - [**2177-6-8**] 07:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-6-8**] 10:00 PM
   Hydralazine - [**2177-6-8**] 10:00 PM
   Labetalol - [**2177-6-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-9**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 86 (80 - 96) bpm
   BP: 184/61(91) {161/54(79) - 192/104(121)} mmHg
   RR: 19 (17 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.7 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                  1,136 mL
                                                                    172 mL
   PO:
             TF:
   IVF:
                                                                    858 mL
                                                                    172 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  2,058 mL
                                                                    670 mL
   Urine:
                                                                  1,758 mL
                                                                    670 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -922 mL
                                                                   -499 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 60%
   SpO2: 91%
   ABG: ///30/
   Ve: 13.6 L/min
   Physical Examination
   GENERAL - Obese,  awake, alert, nods and follows commands
   HEENT - Right ear erythema and induration with crusting, somewhat
   improved over the past few days.  Right facial erythema and
   induration.  Right sub-mandibular induration.  All decreased slightly
   over the past few days.
   NECK - Thick neck, Trach attemp scar. Induration on right neck
   improving
   LUNGS
 bilateral expiratory rhonchi
   HEART - RRR, no MRG, nl S1-S2
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES
 continued lower extremity edema
   NEURO
 awake and alert, following commands
   Labs / Radiology
   283 K/uL
   9.6 g/dL
   107 mg/dL
   1.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   28 mg/dL
   106 mEq/L
   146 mEq/L
   29.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2177-6-4**]  07:28 PM
                             [**2177-6-5**]  06:02 AM
                             [**2177-6-6**]  06:04 AM
                             [**2177-6-6**]  05:50 PM
                             [**2177-6-6**]  10:04 PM
                             [**2177-6-7**]  04:23 AM
                             [**2177-6-7**]  07:26 PM
                             [**2177-6-8**]  04:35 AM
                             [**2177-6-8**]  10:47 PM
                             [**2177-6-9**]  05:06 AM
   WBC
   10.4
   9.3
   8.0
   8.3
   11.5
   6.7
   Hct
   27.0
   25.0
   23.3
   26.6
   27.5
   23.0
   29.0
   29.2
   Plt
   [**Telephone/Fax (3) 6509**]63
   349
   283
   Cr
   1.9
   1.9
   1.9
   1.8
   1.8
   1.8
   TCO2
   35
   35
   Glucose
   144
   70
   100
   92
   116
   107
   Other labs: PT / PTT / INR:14.3/25.7/1.2, ALT / AST:18/17, Alk Phos / T
   Bili:39/1.2, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:7.0 %,
   Mono:5.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:211 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: R IJ appears high. Tracheal narrowing c/w sabersheath
   trachea. Decreased but present bilateral effusions.
   Microbiology: None
   Assessment and Plan
   73 year old man with obesity, DM, COPD with R neck cellulitis s/p
   extubation.  He has not yet passed speech and swallow evaluation but is
   otherwise doing well.
   # Upper airway obstruction/Respiratory Failure: The patient
   obstructing lesion, his cellulitis, persists but he is able to support
   his own airway.  We will continue to diurese him with Lasix IV 20mg to
   relieve his volume overload. Goal -1.5 to 2 L daily.
   # Cellulitis/soft tissue infection:  Afebrile, WBC count resolving.
   Continue Vanc/Zosyn ([**Hospital1 **] day #11).  Will clarify course with ENT and ID,
   although 2 weeks has been recommended thus far.
   # Anemia:  Patient
s hct stable after transfusion yesterday, will
   continue to monitor with twice daily hematocrits.
   # Hypertension: Continues to be hypertensive.  Will uptitrate pain
   regimen and labetalol to 60mg IV q6.  Continue hydralazine, amlodipine.
   # DM:  continue Lantus, HISS
   #.CRI: creatinine stable today at 1.8, urine output good.
   - continue to monitor
   - renally dose meds including vancomycin
   # Decubitus Ulcer: Present on admission, stable per nursing with no
   need for wound consult at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-6-4**] 03:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2177-06-10 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hypertensive requiring increased Labetalol.
   Did not tolerate NIPPV, desatted and was uncomfortable.  Did better on
   face mask.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-6-9**] 09:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-10**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-6-9**] 10:15 PM
   Morphine Sulfate - [**2177-6-10**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-10**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.6
C (96
   HR: 73 (71 - 93) bpm
   BP: 151/65(144) {90/42(64) - 194/87(144)} mmHg
   RR: 17 (11 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.7 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                    882 mL
                                                                    245 mL
   PO:
             TF:
   IVF:
                                                                    882 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                  1,430 mL
   Urine:
                                                                  1,870 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -988 mL
                                                                 -1,185 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   GENERAL - Obese,  awake, alert, nods, follows commands, mouths words
   and answers questions appropriately
   HEENT - Right ear erythema and induration with crusting, somewhat
   improved over the past few days.  Decreased right facial erythema and
   induration and right sub-mandibular induration.
   NECK - Thick neck, Trach attemp scar. Induration on right neck
   improving
   LUNGS
 bilateral expiratory rhonchi and wheezing
   HEART - RRR, no MRG, nl S1-S2
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES
 stable lower extremity edema
   NEURO
 awake and alert, following commands, oriented x 2 (person,
   place), moving all 4 extremeties
   Labs / Radiology
   239 K/uL
   9.8 g/dL
   113 mg/dL
   1.8 mg/dL
   34 mEq/L
   3.3 mEq/L
   30 mg/dL
   105 mEq/L
   148 mEq/L
   30.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2177-6-6**]  06:04 AM
                             [**2177-6-6**]  05:50 PM
                             [**2177-6-6**]  10:04 PM
                             [**2177-6-7**]  04:23 AM
                             [**2177-6-7**]  07:26 PM
                             [**2177-6-8**]  04:35 AM
                             [**2177-6-8**]  10:47 PM
                             [**2177-6-9**]  05:06 AM
                             [**2177-6-9**]  02:58 PM
                             [**2177-6-10**]  04:00 AM
   WBC
   8.0
   8.3
   11.5
   6.7
   6.7
   5.8
   Hct
   23.3
   26.6
   27.5
   23.0
   29.0
   29.2
   29.9
   30.6
   Plt
   241
   263
   349
   [**Telephone/Fax (3) 6541**]
   Cr
   1.9
   1.8
   1.8
   1.8
   1.8
   1.8
   TCO2
   35
   35
   Glucose
   100
   92
   116
   107
   111
   113
   Other labs: PT / PTT / INR:14.5/23.1/1.3, ALT / AST:23/23, Alk Phos / T
   Bili:43/1.3, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:7.0 %,
   Mono:5.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL,
   LDH:202 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
73 year old man with obesity, DM, COPD with R neck cellulitis s/p extubation.  B
edside speech and swallow evaluation revealed aspiration of thin liquids and sof
t signs of aspiration vs. pharyngeal residue of purees.
   # Upper airway obstruction/Respiratory Failure: The patient
   obstructing lesion, his cellulitis, persists but he is able to support
   his own airway.  We will continue to diurese him with Lasix IV 20mg to
   relieve his volume overload. Goal -1.5 to 2 L daily.
   # Cellulitis/soft tissue infection:  Afebrile, WBC count improving.
   Continue Vanc/Zosyn ([**Hospital1 **] day #11).  Will clarify course with ENT and ID,
   although 2 weeks has been recommended thus far.
   # Anemia:  Patient
s hct stable after transfusion yesterday, will
   continue to monitor with daily hematocrits.
   # Hypertension: Continues to be hypertensive.  Will uptitrate pain
   regimen and labetalol to 60mg IV q6.  Continue hydralazine, amlodipine.
   # DM:  continue Lantus, HISS
   #.CRI: creatinine stable today at 1.8, urine output good.
   - continue to monitor
   - renally dose meds including vancomycin
   # Decubitus Ulcer: Present on admission, stable per nursing with no
   need for wound consult at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-6-4**] 03:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-06-11 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2177-6-10**] 10:00 PM
   -          No issues with dyspnea/hypoxia overnight
   -          Speech & Swallow to repeat bedside evaluation today
   able to take meds w/applesauce at bedside per nursing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-6-10**] 11:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2177-6-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2177-6-10**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2177-6-10**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-6-11**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 73 (65 - 82) bpm
   BP: 158/66(90) {128/47(68) - 173/83(103)} mmHg
   RR: 22 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.7 kg (admission): 115.1 kg
   Height: 64 Inch
             Total In:
                                                                    688 mL
                                                                    578 mL
   PO:
             TF:
   IVF:
                                                                    688 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                    390 mL
   Urine:
                                                                  2,740 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,053 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent 60%
   SpO2: 96%
   ABG: 7.41/62/98.[**Numeric Identifier 20**]/32/11
   Physical Examination
   GENERAL - Obese,  awake, alert, nods, follows commands, mouths words
   and answers questions appropriately
   HEENT
 improving cellulits, dry mouth
   NECK - Thick neck, Trach attemp scar. Induration on right neck
   improving
   LUNGS
 bilateral expiratory rhonchi and wheezing
   HEART - RRR, no MRG, nl S1-S2
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES
 stable lower extremity edema
   NEURO
 awake and alert, following commands, oriented x 2 (person,
   place), moving all 4 extremeties
   Labs / Radiology
   248 K/uL
   10.8 g/dL
   124 mg/dL
   1.7 mg/dL
   32 mEq/L
   3.6 mEq/L
   32 mg/dL
   107 mEq/L
   149 mEq/L
   34.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2177-6-6**]  10:04 PM
                             [**2177-6-7**]  04:23 AM
                             [**2177-6-7**]  07:26 PM
                             [**2177-6-8**]  04:35 AM
                             [**2177-6-8**]  10:47 PM
                             [**2177-6-9**]  05:06 AM
                             [**2177-6-9**]  02:58 PM
                             [**2177-6-10**]  04:00 AM
                             [**2177-6-10**]  01:30 PM
                             [**2177-6-11**]  04:09 AM
   WBC
   8.3
   11.5
   6.7
   6.7
   5.8
   4.4
   Hct
   27.5
   23.0
   29.0
   29.2
   29.9
   30.6
   34.4
   Plt
   263
   349
   283
   265
   239
   248
   Cr
   1.8
   1.8
   1.8
   1.8
   1.8
   1.7
   TCO2
   35
   35
   41
   Glucose
   92
   116
   107
   111
   113
   124
   Other labs: PT / PTT / INR:14.0/23.8/1.2, ALT / AST:24/24, Alk Phos / T
   Bili:43/1.7, Differential-Neuts:70.7 %, Band:1.0 %, Lymph:17.9 %,
   Mono:6.7 %, Eos:3.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL,
   LDH:202 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   T Bili:  1.3
1.7, AP 43, AST/ALT 24
   No new culture or imaging data.
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   73 year old man with obesity, DM, COPD with R neck cellulitis s/p
   extubation.  Bedside speech and swallow evaluation revealed aspiration
   of thin liquids and soft signs of aspiration vs. pharyngeal residue of
   purees.
   # Respiratory failure:  Now extubated but with ongoing hypercarbia and
   high O2 requirement, likely secondary to baseline COPD and OSA
   physiology.  Also has bilateral effusions that may be contributing to
   hypoxia.  He has been net negative yesterday without Lasix.  He has not
   tolerated Bipap but may benefit from a re-trial in the future.
   -  repeat ABG
   -  consider further weaning of O2 as tolerated
   -  attempt re-trial of bipap
   -  wean O2 as tolerated
   - monitor I/O
   .
   # Delirium:  Most likely ICU delirium related to recent prolonged
   intubation, etc.  Also on the differential would be infection (UA
   yesterday questionably dirty), drug effect (fentanyl recently started),
   hypercarbia (although he appears well compensated and more likely he is
   at his baseline CO2).
   - d/c fentanyl
   - f/u urine cx
   - optimize sleep/wake cycle hygeine
   - repeat ABG as above
   - would consider zyprexa if agitated
   .
   # Cellulitis/soft tissue infection:  on vanc and zosyn.  MRI today with
   improvement in soft tissue swelling.
   - f/u ID recs regarding course of vanc/zosyn (likely 3 weeks)
   - f/u final read MRI
   - continue zosyn/vanc
   - check vanc trough tomorrow given changing renal function
   # Anemia:  stable
   # Hypertension: improved now on increased labetolol to 60 IV Q6 on
   [**6-9**], also on amlodipine 10 mg and hydralazine 40 mg IV q6h
   - f/u BP
   - consider transition to PO meds if able to tolerate
   # DM:  continue Lantus, HISS
   #.CRI: creatinine improved today at 1.7, urine output good.
   - continue to monitor
   - renally dose meds including vancomycin
   # hypernatremia:  free water deficit ~3.5 L
   - free water boluses if passes speech and swallow
   - will replete with D5 if not
   # elevated Tbili:  without elevation of alk phos
   - fractionate
   - consider RUQ US if conjugated and continues to rise
   # Decubitus Ulcer: Present on admission, stable per nursing with no
   need for wound consult at this time
   ICU Care
   Nutrition:  will pursue feeding tube if he doesn
t pass S&S
   Glycemic Control:  insulin SS
   Lines:
   PICC Line - [**2177-6-4**] 03:15 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in the ICU pending improvement in delirium and respiratory
   status (possible call-out vs rehab tomorrow)